US09422281B2
A 100-mL round bottom flask fitted with nitrogen inlet and magnetic stir bar was charged with (S)-tert-butyl 7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (4.95 g, 15.13 mmol), 1,2-dichloroethane (50 mL), and pyridine (2.45 mL, 30.3 mmol). The reaction was cooled to 0° C. and methyl chloroformate (1.758 ml, 22.69 mmol) was added slowly. The reaction mixture stirred at 0° C. for 30 min and was then warmed to room temperature. After 2 h the reaction was diluted with 1,2-dichloroethane (20 mL) and washed with 1 M aqueous HCl solution (25 mL). The organic was concentrated under reduced pressure to afford (S)-4-tert-butyl 1-methyl 6-bromo-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate (5.83 g, 100%) as an amber oil. The material was used without further purification. MS (ESI, pos. ion) m/z 385 [M+1]+.

reactant | (S)-tert-butyl 7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 15.13 mmol, 4.95 g | BrC1=CC=C2N[C@H](CN(C2=C1)C(=O)OC(C)(C)C)C | C14H19BrN2O2
reactant | pyridine | 30.3 mmol, 2.45 mL | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 22.69 mmol, 1.758 ml | ClC(=O)OC | C2H3ClO2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
product | (S)-4-tert-butyl 1-methyl 6-bromo-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate | 5.83 g, 100% | BrC=1C=C2N(C[C@@H](N(C2=CC1)C(=O)OC)C)C(=O)OC(C)(C)C | C16H21BrN2O4
